US07776897B2
4-(2-Thienyl)tetrahydropyran-4-carboxylic acid was reacted with thionyl chloride and a catalytic amount of DMF in methylene chloride under heating to obtain 4-(2-thienyl)tetrahydropyran-4-carbonyl chloride. A THF solution of 4-(2-thienyl)tetrahydropyran-4-carbonyl chloride was added dropwise to a THF solution of hydrazine monohydrate and the whole was reacted at 0° C. to obtain 4-(2-thienyl)tetrahydropyran-4-carbohydrazide.

reactant | 4-(2-thienyl)tetrahydropyran-4-carbonyl chloride | S1C(=CC=C1)C1(CCOCC1)C(=O)Cl | C10H11ClO2S
reactant | hydrazine monohydrate | O.NN
solvent | THF | C1CCOC1 | C4H8O
product | 4-(2-thienyl)tetrahydropyran-4-carbohydrazide | S1C(=CC=C1)C1(CCOCC1)C(=O)NN | C10H14N2O2S
